US06927214B1
6,7-Dichloro-2-methylsulfonyl-3-(methylsulfonyl)methyl-quinoxaline
To a solution of 3-chloromethyl-2,6,7-trichloroquinoxaline (150 mg, 0.53 mmol) in DMF (3 ml) was added methanesulfinic acid, sodium salt (120 mg, 1.06 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was removed and the residue was purified by column chromatography (ethyl acetate:hexane 1:2) to afford the title compounds as a white solid.

reactant | 3-chloromethyl-2,6,7-trichloroquinoxaline | 0.53 mmol, 150 mg | ClCC=1C(=NC2=CC(=C(C=C2N1)Cl)Cl)Cl | C9H4Cl4N2
reactant | methanesulfinic acid | CS(=O)O | CH4O2S
reactant | sodium | 1.06 mmol, 120 mg | [Na] | Na
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6,7-Dichloro-2-methylsulfonyl-3-(methylsulfonyl)methyl-quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)S(=O)(=O)C)CS(=O)(=O)C | C11H10Cl2N2O4S2
